US07863271B2
To a solution of (2S,6S)-2,6-dimethylpiperazine dihydrochloride (0.30 g, 1.63 mmol), in CH2Cl2 (10 mL) at room temperature was added triethylamine (0.48 mL, 3.42 mmol) followed by di-tert butyldicarbonate (0.39 g, 1.79 mmol) and the reaction mixture was allowed to stir at room temperature 48 h. The reaction mixture was partitioned between EtOAc (20 mL) and saturated NaHCO3 (20 mL). The aqueous phase was further extracted with EtOAc (2×20 mL). The combined organic phase was washed with brine (20 mL) and dried (Na2SO4). The crude product was purified by column chromatography (silica gel, 3 to 10% CH3OH in CH2Cl2) to afford (3S,5S)-tert-butyl 3,5-dimethylpiperazine-1-carboxylate (0.34 g, 52%) as a clear oil. 1H NMR and MS consistent.

reactant | (2S,6S)-2,6-dimethylpiperazine dihydrochloride | 1.63 mmol, 0.30 g | Cl.Cl.C[C@@H]1N[C@H](CNC1)C
reactant | triethylamine | 3.42 mmol, 0.48 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert butyldicarbonate | 1.79 mmol, 0.39 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (3S,5S)-tert-butyl 3,5-dimethylpiperazine-1-carboxylate | 0.34 g, 52% | C[C@H]1CN(C[C@@H](N1)C)C(=O)OC(C)(C)C | C11H22N2O2
